US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-isopropylamino-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-oxo-ethyl)-1H-imidazol-4-yl]-amide was reacted with isopropylamine to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.0, 18.9, 23.3, 26.5, 35.9, 43.2, 49.3, 53.2, 57.7, 59.0, 102.6, 102.9, 103.1, 105.1, 112.4, 112.4, 112.5, 112.6, 131.7, 137.7, 138.7, 161.9, 162.1, 164.4, 164.5, 169.1; MS m/z 450.2 (M+1).

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-oxo-ethyl)-1H-imidazol-4-yl]-amide | CC(C=O)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C20H24F2N4O3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-isopropylamino-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide | C(C)(C)NCC(C)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C23H33F2N5O2
